US04188389
N-[2-(1H-PYRROL-1-YL)ETHYL]ACETAMIDE (II; R1 =Me)
A mixture of ethylenediamine (12 g), 2,5-dimethoxytetrahydrofuran (29 g), dioxane (400 ml), and acetic acid (200 ml) is refluxed for 4 hr and then stirred at 20° to 30° C. for 10 hr. The solvents are removed under reduced pressure, the residue is dissolved in chloroform and the solution is washed successively with conc. sodium bicarbonate and water. The organic phase is dried over magnesium sulfate, filtered and evaporated. The residue is crystallized from ethyl acetate-diethyl ether to give the title compound (20 g): mp 59°-60° C., ir(CHCl3) 3420 and 1660 cm-1, nmr-(CDCl3) δ 1.92(s), 3.25(dd), 3.62(dd), 3.99(dd), 4.06(dd), 6.00(s), 6.18(t) and 6.77(t), and anal. calc'd. for C8H12N2O: C, 63.13% H, 7.95% N, 18.41% and found: C, 63.27% H, 7.87% N, 18.51%.

reactant | ethylenediamine | 12 g | C(CN)N | C2H8N2
reactant | 2,5-dimethoxytetrahydrofuran | 29 g | COC1OC(CC1)OC | C6H12O3
reactant | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-[2-(1H-PYRROL-1-YL)ETHYL]ACETAMIDE | 20 g | N1(C=CC=C1)CCNC(C)=O | C8H12N2O
